US04458075
8-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-1,4-dioxa-8-azaspiro[4,5]decane hydrochloride
A mixture of 15 g of 1,4-dioxa-8-azaspiro-[4.5]decane, 25 g of 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole, 29 g of potassium carbonate and a few crystals potassium iodide in 80 ml of dimethylformamide was stirred at 70°-75° C. for two hrs. The mixture was cooled, filtered and concentrated to an oil. The oil was stirred with water and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was treated with ethereal hydrogen chloride to give 18 g (48%) or product, mp 170°-173° C. Recrystallization from ethyl acetate/methanol gave the analytical sample, mp 178°-179° C.

reactant | 1,4-dioxa-8-azaspiro-[4.5]decane | 15 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 3-(3-chloropropyl)-6-fluoro-1,2-benzisoxazole | 25 g | ClCCCC1=NOC2=C1C=CC(=C2)F | C10H9ClFNO
reactant | potassium carbonate | 29 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 8-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-1,4-dioxa-8-azaspiro[4,5]decane hydrochloride | Cl.FC1=CC2=C(C(=NO2)CCCN2CCC3(OCCO3)CC2)C=C1 | InChI=1S/C17H21FN2O3.ClH/c18-13-3-4-14-15(19-23-16(14)12-13)2-1-7-20-8-5-17(6-9-20)21-10-11-22-17;/h3-4,12H,1-2,5-11H2;1H
